Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Oxycodone / Mepron / Azithromycin
 
Attending: ___
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ woman with multiple myeloma, s/p autoSCT ___ days 
ago, now on study drug ___, presents with fever. Patient 
received her 3rd dose of the study drug on ___ without any 
complication. Later that day she developed fever of ___. No 
localizing symptom. She was referred to the ED.
.
In the ED, T 102, HR 144, BP 125/78. Her WBC was 6.9 with 86% 
polys. Her Hct was 30.6, down from 37.7 earlier in the day; 
baseline in the high ___. INR 1.1. Haptoglobin pending. LDH 
normal. LFTs unremarkable. Cr 0.8. CXR was negative. U/a 
negative. She received empiric vancomycin and 
piperacillin-tazobactam after blood cultures had been drawn. 
.
Review of Systems:  
(+) Per HPI  
(-) Denies night sweats, recent weight loss or gain. Denies 
blurry vision, diplopia, loss of vision, photophobia. Denies 
headache, sinus tenderness, rhinorrhea or congestion. Denies 
chest pain or tightness, palpitations, lower extremity edema. 
Denies cough, shortness of breath, or wheezes. Denies nausea, 
vomiting, diarrhea, constipation, abdominal pain, melena, 
hematemesis, hematochezia. Denies dysuria, stool or urine 
incontinence. Denies arthralgias or myalgias. Denies rashes or 
skin breakdown. No numbness/tingling in extremities. All other 
systems negative.
 
Past Medical History:
ONCOLOGIC HISTORY: (as outlined in previous notes)
# Multiple myeloma, diagnosed in ___
- presented after mechanical fall
- found to have non-displaced distal femur fracture
- Underwent CT guided biopsy on ___ c/w plasmacytoma
- s/p intramedullary nail to R femur ___
- BM biopsy ___ showed 13% plasma cells by aspirate, 20% 
CD138+ by stain, normal cytogenetics
- received 3500 cGy to plasmacytoma, last on ___
- enrolled in protocol ___: ___ with or without DC/Tumor 
fusion vaccine in participants with multiple myeloma who are to 
undergo an autologous stem cell transplant
- port placed ___
- DTH tumor harvest on ___
- began C1 velcade/dex on ___, received ___ cycle ___
- Cytoxan
- repeat BM biopsy from ___: Normocellular marrow with 
trilineage maturation (see note).
Note: Plasma cells are 2% of aspirate differential with rare 
cytologically atypical forms. By immunohistochemistry, CD138 
immunoreactive plasma cells are 5% of marrow core biopsy with no 
definite monotypic restriction seen by kappa and lambda 
staining. Please correlate with clinical and other laboratory 
findings.
.
PAST MEDICAL HISTORY:
Depression
s/p bunionectomy 
 
Social History:
___
Family History:
Mother with ___. Denies family history of malignancy
 
Physical Exam:
VS: T 101.8, BP 102/66, HR 114, RR 18, 94%RA
GEN: Middle-aged woman in NAD, awake, alert  
HEENT: EOMI, sclera anicteric, conjunctivae clear, OP moist and 
without lesion
NECK: Supple, no JVD  
CV: Tachycardic, regular, normal S1, S2. No m/r/g.   
CHEST: Resp unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABD: Soft, NT, ND, no HSM, bowel sounds present
MSK: normal muscle tone and bulk
EXT: No c/c/e, 2+ ___ bilaterally
SKIN: No rash, warm skin
NEURO: oriented x 3, normal attention
PSYCH: appropriate
.
Dishcarge exam
VS: Tm/tc 98.2/98.2 BP 108/66, HR 81, RR 18,100%RA
GEN: Middle-aged woman in NAD, awake, alert
HEENT: EOMI, sclera anicteric, conjunctivae clear, false upper 
teeth, no oral ulcers or erythemia, no tosilar exudate.
NECK: Supple, no JVD
CV: regular, normal S1, S2. No m/r/g.
CHEST: portacath in place without erythemia or drainage. Resp 
unlabored, no accessory muscle use. CTAB, no crackles, wheezes 
or rhonchi.
ABD: Soft, NT, ND, no HSM, bowel sounds present
MSK: normal muscle tone and bulk
EXT: No calf tenderness ___, no edema ___. 2+ ___ bilaterally
SKIN: No rash, warm skin
NEURO: oriented x 3, normal attention
PSYCH: appropriate 

 
Pertinent Results:
Admission labs
___ 11:00PM URINE  HOURS-RANDOM
___ 11:00PM URINE  HOURS-RANDOM
___ 11:00PM URINE  UCG-NEGATIVE
___ 11:00PM URINE  GR HOLD-HOLD
___ 11:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 10:40PM   GLUCOSE-136* UREA N-13 CREAT-0.8 SODIUM-141 
POTASSIUM-3.7 CHLORIDE-109* TOTAL CO2-24 ANION GAP-12
___ 10:40PM   ALT(SGPT)-22 AST(SGOT)-22 LD(LDH)-127 ALK 
PHOS-50 TOT BILI-0.4
___ 10:40PM   ALBUMIN-4.1 CALCIUM-8.9 PHOSPHATE-2.6* 
MAGNESIUM-1.5*
___ 10:40PM   WBC-6.9# RBC-3.14* HGB-10.3* HCT-30.6* MCV-98 
MCH-32.9* MCHC-33.7 RDW-14.2
___ 10:40PM   NEUTS-85.5* LYMPHS-10.2* MONOS-2.9 EOS-1.0 
BASOS-0.3
___ 10:40PM   PLT COUNT-154
___ 10:40PM   ___ PTT-24.3 ___

Discharge labs
___ 06:16AM BLOOD WBC-5.0 RBC-3.07* Hgb-10.0* Hct-31.0* 
MCV-101* MCH-32.7* MCHC-32.3 RDW-14.0 Plt ___
___ 02:58AM BLOOD Neuts-94* Bands-0 Lymphs-5* Monos-1* 
Eos-0 Baso-0 ___ Myelos-0
___ 06:16AM BLOOD Glucose-102* UreaN-5* Creat-0.6 Na-146* 
K-4.0 Cl-117* HCO3-24 AnGap-9
___ 08:41AM BLOOD ALT-21 AST-18 LD(LDH)-113 AlkPhos-44 
TotBili-0.3
.
MICRO
Blood cultures ___ negative 
Sputum: mixed flora

IMAGING:
# CXR: IMPRESSION: Low lung volumes and atelectasis but no 
findings to suggest pneumonia. Left basilar atletesis is 
non-specific and can be seen in the setting of splinting, but 
also pulmonary embolism. If there is concern for a PE, then a 
CTA chest should be performed. 
.
Lower ext dopplers:
IMPRESSION: No evidence for DVT.

CTA 
IMPRESSION:
1. No evidence of pulmonary emboli or acute aortic injury.
2. New left lower lobe patchy opacity suggestive of left lower 
lobe
pneumonia.
3. Two small nodular opacities in the right middle and lower 
lobes appear
similar in comparison to prior study.
4. Similar appearance of foci of sclerosis in the right fourth 
rib, T12
lamina, and left humeral head.

 
Brief Hospital Course:
___ woman with multiple myeloma, s/p autoSCT ___, 
now on study drug ___, presents with fever and found to have 
pneumonia.
.
# Community acquired pneumonia: Patient presented with fever to 
102 and did not have localizing symptoms initially. Drug 
reaction was considered unlikely given that patient has had the 
study medication two times prior without event. UA negative, 
Blood cultures negative. CXR shows attelectasis and concern for 
PE was raised given tachycardia and history of malignancy. Lower 
extremity dopplers negative for DVT, CTA was negative for PE but 
showed LLL infiltrate. On HD 2 she developed progressive cough. 
She was treated with levofloxacin for community acquired 
pneumonia. Her fever curve trended down and she was discharged 
with a prescription for levofloxacin to complete a 8 day course. 
She was also given an albuterol inhaler to help with wheezing 
while the cough resolved.
.
# Multiple myeloma: diagnosed in ___ after pathologic femur 
fracture, received radiation, 3 ccyles of velcade/dexamethasone 
and underwent autoSCT ___ currnelty on a study drug 
___ and has had three doses, last dose ___. Fever is 
unlikely to be related to study drug. Continued ppx with 
acyclovir and pentamidine
.
# Code: full 

 
Medications on Admission:
Medications - Prescription
ACYCLOVIR -  (pt never stopped taking drug) - 400 mg Tablet - 1 
Tablet(s) by mouth three times a day
EPINEPHRINE [EPIPEN] - 0.3 mg/0.3 mL  (1:1,000) Pen Injector - 
IM PRN anaphylaxis as needed please dispense 2-pack
PENTAMIDINE [NEBUPENT] - 300 mg Recon Soln - 1 inh(s) po q4wks 
Give 2 puffs of albuterol prior to treatment
TRAMADOL - 50 mg Tablet - 1 Tablet(s) by mouth q 8 hours as 
needed for pain
 
Medications - OTC
ACETAMINOPHEN -  (Prescribed by Other Provider) - 325 mg Tablet 
- ___ Tablet(s) by mouth
LORATADINE -  (OTC) - 10 mg Tablet - 1 Tablet(s) by mouth once a 
day takes for seasonal allergies
SODIUM CHLORIDE -  (discharge med) - 0.65 % Aerosol, Spray - ___ 
Aerosol(s) intranasally four times a day as needed for sinus 
congestion
 
Discharge Medications:
1. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 6 days: ___.
Disp:*6 Tablet(s)* Refills:*0*
2. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
3. epinephrine 0.3 mg/0.3 mL Pen Injector Sig: One (1) Pen 
Intramuscular   as needed for Severe alergic reaction.  
4. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.  
5. acetaminophen 325 mg Tablet Sig: ___ Tablets PO three times a 
day as needed for fever or pain.  
6. loratadine 10 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for allergy symptoms.  
7. sodium chloride 0.65 % Aerosol, Spray Sig: ___ sprays Nasal 
four times a day as needed for Congestion.  
8. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ puffs Inhalation every ___ hours as needed for cough.
___ MDI* Refills:*0*
9. pentamidine 300 mg Recon Soln Sig: One (1) ihn Inhalation 
q4weeks: Give 2 puffs of albuterol prior to treatment
.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community acquired Pneumonia
.
Multiple myeloma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms ___,
 It was a pleasure taking care of you in your stay at ___. As 
you know, you were admitted for fever after your last infusion 
of ___. We checked a chest xray which did not show anything 
concerning. We were concerned for pulmonary embolism (blood clot 
in the lung) and performed a CT of the chest which did not show 
a pulmonary embolism but did show evidence of a pneumonia. We 
started you on antibiotics and you remained without fever for 
>24 hours. When you go home, you will need to continue the 
antibiotics. We are also giving you an inhaler to use to help 
your breathing while your penumonia resolves.
.
MEDICATIONS
START Levofloxacin for pneumonia
START Albuterol for cough/wheeze

 
Followup Instructions:
___